US04965266
Preparation of N-[4-(4-diphenylmethyl-1-piperazinyl)butyl]-4,5-dihydroxyquinoline-3-carboxamide
N,N'-Carbonyldiimidazole (1.2 g) is added to a solution of 4,5-dihydroxyquinoline-3-carboxylic acid (0.7 g), which is prepared according to the method described in Japanese Patent First Publication No. 65874/1981, in dry dimethyl sulfoxide (30 ml) and the mixture is stirred at room temperature for 30 minutes. 4-(4-Diphenylmethyl-1-piperazinyl)butylamine (2.2 g) is added to the reaction mixture and the mixture is stirred at room temperature for 6 hours, and thereto is added water (about 200 ml), and the mixture is extracted with chloroform. The organic layer is dried over anhydrous magnesium sulfate and the solvent is distilled off. The residue is subjected to silica gel column chromatography, followed by elution with chloroform - methanol (30 : 1). The obtained crystals are recrystallized from isopropyl alcohol to give the desired compound (0.72 g). m.p. 215° to 218° C.

reactant | 4,5-dihydroxyquinoline-3-carboxylic acid | 0.7 g | OC1=C(C=NC2=CC=CC(=C12)O)C(=O)O | C10H7NO4
reactant | 4-(4-Diphenylmethyl-1-piperazinyl)butylamine | 2.2 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCN)C1=CC=CC=C1 | C21H29N3
reactant | water | about 200 ml | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | N-[4-(4-diphenylmethyl-1-piperazinyl)butyl]-4,5-dihydroxyquinoline-3-carboxamide | 0.72 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCNC(=O)C=1C=NC2=CC=CC(=C2C1O)O)C1=CC=CC=C1 | C31H34N4O3
